US07872009B2
To a solution of methyl-1-oxo-1,2-dihydroisoquinoline-4-carboxylate (780 mg, 3.8 mmol, Bionet), potassium carbonate (650 mg, 4.7 mmol, Aldrich), and 6 mL of DMF was added cyclopentyl iodide (0.52 mL, 4.5 mmol, Aldrich). The solution was stirred at RT for 4 h, then diluted with 50 mL of water. The solids were filtered and washed with CH2Cl2 and EtOAc. The filtrate was concentrated in vacuo and chromatographed through a Redi-Sep® pre-packed silica gel column (12 g), eluting with 0% to 15% EtOAc:hexane to give 240 mg (23%) of methyl 2-cyclopentyl-1-oxo-1,2-dihydroisoquinoline-4-carboxylate as an off-white solid. MS m/z: 272.3(M+1).

reactant | methyl-1-oxo-1,2-dihydroisoquinoline-4-carboxylate | 3.8 mmol, 780 mg | COC(=O)C1=CNC(C2=CC=CC=C12)=O | C11H9NO3
reactant | potassium carbonate | 4.7 mmol, 650 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
reactant | cyclopentyl iodide | 4.5 mmol, 0.52 mL | C1(CCCC1)I | C5H9I
solvent | water | 50 mL | O | H2O
product | methyl 2-cyclopentyl-1-oxo-1,2-dihydroisoquinoline-4-carboxylate | 240 mg, 23% | C1(CCCC1)N1C(C2=CC=CC=C2C(=C1)C(=O)OC)=O | C16H17NO3
